US04277420
In a flame dried nitrogen purged 100 ml round bottom flask equipped with a magnetic stirring bar, Dean-Stark trap and a reflux condenser were added 3.0 g (20.3 mmol) α-keto-propiophenone, 3.6 g (40.5 mmol) urethane (ethyl carbamate),10 mg (0.1 mmol) hydroquinone, 60 mg (0.3 mmol) paratoluenesulfonic acid and 20 ml of toluene. The mixture was refluxed under nitrogen with vigorous stirring for 31/2 hours. The solvent was removed under reduced pressure and the residue distilled through a short path distillation column giving approximately 1 g of ethyl N-(1-benzoylvinyl)carbamate bp≃130°-135° C. (1mm).

reactant | α-keto-propiophenone | 20.3 mmol, 3.0 g | O=C(C(=O)C1=CC=CC=C1)C | C9H8O2
reactant | urethane (ethyl carbamate) | 40.5 mmol, 3.6 g | C(C)NC(O)=O.NC(=O)OCC | 2C3H7NO2
catalyst | hydroquinone | 0.1 mmol, 10 mg | C1(O)=CC=C(O)C=C1 | C6H6O2
solvent | toluene | 20 ml | C1(=CC=CC=C1)C | C7H8
product | ethyl N-(1-benzoylvinyl)carbamate | approximately 1 g | C(C1=CC=CC=C1)(=O)C(=C)NC(OCC)=O | C12H13NO3
